US09238640B2
To a solution of 5-chloro-2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)quinazolin-4(3H)-one (0.40 g, 1.16 mmol) in anhydrous DMF (10 mL) was added carbon tetrabromide (0.42 g, 1.27 mmol) and triphenylphosphine (0.33 g, 1.27 mmol). The reaction mixture was stirred at room temperature for 27 hours. Solvent was evaporated to dryness in vacuo and the residue triturated with Et2O (15 mL)/EtOAc (15 mL) to give 2-(4-(2-bromoethoxy)-3,5-dimethylphenyl)-5-chloroquinazolin-4(3H)-one (0.42 g). It was used without further purification. The 1H NMR indicated a purity of about 45%.

reactant | 5-chloro-2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)quinazolin-4(3H)-one | 1.16 mmol, 0.40 g | ClC1=C2C(NC(=NC2=CC=C1)C1=CC(=C(C(=C1)C)OCCO)C)=O | C18H17ClN2O3
reactant | carbon tetrabromide | 1.27 mmol, 0.42 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.27 mmol, 0.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(4-(2-bromoethoxy)-3,5-dimethylphenyl)-5-chloroquinazolin-4(3H)-one | 0.42 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC=CC(=C2C(N1)=O)Cl)C | C18H16BrClN2O2
